US07335658B2
6-[4-(4,4,4-TRIFLUOROBUT-2-ENOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 4,4,4-trifluorobut-2-enoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (19.6% yield). 1H NMR (500 MHz, CDCl3) δ 8.09, 8.00, 7.00, 6.81, 3.96-3.88, 3.78, 3.57, 1.53, 0.76, 0.48, 0.10. MS (ES+) m/z 398 (M+1).

reactant | 4,4,4-trifluorobut-2-enoic acid | FC(C=CC(=O)O)(F)F | C4H3F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(4,4,4-TRIFLUOROBUT-2-ENOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C=CC(F)(F)F)=O | C18H22F3N5O2
